US06436965B1
{1-[(4-Fluorophenyl)methyl]-3-(phenylmethoxy)indol-2-yl}-N-(3-pyridylmethyl)formamide (Compound 185)
Following the procedure describing the preparation of example 166, 1-[(4-fluorophenyl)methyl]-3-(phenylmethoxy)indole-2-carboxylic acid (50 mg) in THF (3.0 mL) at 0° C. was treated with i-Pr2NEt (0.1 mL), MsCl (10 μL), stirred for 0.5 hours and then added 3-(aminomethyl)pyridine (20 mg). After work-up and purification by flash chromatography eluting with 30% EtOAc/hexanes the title amide (27.4 mg) was isolated as a light yellow oil.

reactant | 1-[(4-fluorophenyl)methyl]-3-(phenylmethoxy)indole-2-carboxylic acid | 50 mg | FC1=CC=C(C=C1)CN1C(=C(C2=CC=CC=C12)OCC1=CC=CC=C1)C(=O)O | C23H18FNO3
reactant | i-Pr2NEt | 0.1 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | MsCl | 10 μL | CS(=O)(=O)Cl | CH3ClO2S
reactant | 3-(aminomethyl)pyridine | 20 mg | NCC=1C=NC=CC1 | C6H8N2
reactant | THF | 3.0 mL | C1CCOC1 | C4H8O
product | {1-[(4-Fluorophenyl)methyl]-3-(phenylmethoxy)indol-2-yl}-N-(3-pyridylmethyl)formamide | FC1=CC=C(C=C1)CN1C(=C(C2=CC=CC=C12)OCC1=CC=CC=C1)N(C=O)CC=1C=NC=CC1 | C29H24FN3O2
